* /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.asc
.subckt TNOR a b vcc vee out
M1 N001 a vcc vcc PMOS
M2 N002 b vee vee NMOS
M3 N001 b vcc vcc PMOS
M4 N002 a vee vee NMOS
R5 Out N001 10k
R6 Out N002 10k
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.ends
